2137-10-14 22:37:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56W cirrhosis admitted [**9-27**] with fevers, confusion - started on CTX for
   possible SBP. Restarted along with vanco recently. Also vaginal
   bleeding requiring transfusion. Mental status worsened again over past
   few days. Received 2 days of linezolid for VRE in urine.
   Lactulose increased today. Also developed vascular trauma leading to
   hematoma following a right radial ABG.
   Currently complaining of abdominal pain.
   24 Hour Events:
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2137-10-14**] 08:27 PM
   Hydromorphone (Dilaudid) - [**2137-10-14**] 09:33 PM
   Other medications:
   Changes to medical and family history:
   cirrhosis
   hepC
   autoimmune hepatitis
   varices
   nonocclusive portal vein thrombosis
   breast cancer - mastectomy, local recurrence requiring XRT
   CRI
   CAD
   sarcoid
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2137-10-14**] 10:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 90 (90 - 100) bpm
   BP: 168/72(96) {168/67(96) - 197/72(101)} mmHg
   RR: 17 (8 - 17) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    270 mL
   Urine:
   270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: None
   FiO2: RA
   ABG: ///28/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Non-tender, Distended
   Extremities: wrapped right hand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.7 g/dL
   84 K/uL
   217 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.2 mEq/L
   50 mg/dL
   118 mEq/L
   152 mEq/L
   21.1 %
   5.9 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
   WBC
   5.9
   Hct
   21.1
   Plt
   84
   Cr
   1.8
   Glucose
   217
   Other labs: PT / PTT / INR:53.6/58.1/5.9, ALT / AST:33/82, Alk Phos / T
   Bili:77/25.6, Fibrinogen:91 mg/dL, Albumin:4.1 g/dL, LDH:416 IU/L,
   Ca++:10.3 mg/dL, Mg++:3.3 mg/dL, PO4:2.7 mg/dL
   Imaging: right wrist u/s
   KUB likely ileus, no SBO
   Microbiology: urine + VRE [**10-5**]
   Assessment and Plan
   cirrhosis, encephalopathy, coagulopathy - needs liver transplant,
   continue lactulose + rifaximin, recently completed second course of
   abx, paracentesis tomorrow
   vaginal bleeding - following for now
   blood loss anemia - bleeding from mouth, GU system, GI  system,
   receiving vitamin K, repeat Hct shortly and consider transfusion
   UTI - recent cultures negative
   CRI - at baseline creatinine though urine output poor, continue
   octreotide, will diurese once blood products started
   HTN - labetolol and hydralazine as needed, diurese
   hypernatremia - continue H2O
   wrist hematoma - improving, continue supportive care, elevation
   DM - continue insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2137-10-15 05:55:00 Physician Resident Progress Note
Chief Complaint: Encephalopathy
   24 Hour Events:
   Plastics recommend against PICC line in R arm
   lasix 20mg IV x2 to correct hypernatremia
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2137-10-14**] 08:27 PM
   Furosemide (Lasix) - [**2137-10-14**] 11:30 PM
   Hydromorphone (Dilaudid) - [**2137-10-15**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-15**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 92 (88 - 100) bpm
   BP: 148/61(82) {148/56(82) - 197/73(101)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
             Total In:
                                                                    140 mL
                                                                    396 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                    140 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    380 mL
   Urine:
                                                                    305 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,065 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   GENERAL:  Ill appearing, NAD
   HEENT:  NCAT, Sclera icteric. Bleeding from cracked lips. Oropharynx
   clear.
   CARDIAC: RRR. No murmurs.
   LUNG:  CTAB. No wheezes or crackles.
   ABDOMEN:  Tense. Tender to palpation. + fluid wave. No rebound or
   guarding.
   EXT:  WWP. 3+ LE edema.
   NEURO:  Patient A+Ox1. Unable to answer questions.
   DERM:  Jaundiced
   Labs / Radiology
   88 K/uL
   6.7 g/dL
   177 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.6 mEq/L
   51 mg/dL
   119 mEq/L
   153 mEq/L
   21.1 %
   7.1 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
                            [**2137-10-15**]  04:19 AM
   WBC
   5.9
   7.1
   Hct
   21.1
   21.1
   Plt
   84
   88
   Cr
   1.8
   1.2
   Glucose
   217
   177
   Other labs: PT / PTT / INR:58.1/68.8/6.5, ALT / AST:34/86, Alk Phos / T
   Bili:80/26.3, Fibrinogen:91 mg/dL, Albumin:4.1 g/dL, LDH:424 IU/L,
   Ca++:10.2 mg/dL, Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Right arm hematoma
 HEPATIC ENCEPHALOPATHY
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 COAGULOPATHY
   56 y/o F w/HCV & autoimmune hepatitis, admitted for low-grade fever and
   hepatic encephalopathy, on the transplant list, transferred to the ICU
   for worsening encephalopathy.
   .
   .
   # Altered mental status - LFT's stable, with consistently worsening
   bilirubin upto 24 today.  Likely secondary to hepatic encephalopathy,
   which has been worse over the past 3 days, with disorientation,
   asterixis. S/p seven day course of ceftriaxone for empiric SBP coverage
   x2, and 7 day course of Vancomycin, completed today. CT head negative.
   Lactulose was increased today to 60mg po q3h.
   - continue Lactulose Q3 hrs titrate to 4 BMs/day
   - continue Rifaxmin
   - abdominal US to rule out portal vein thrombosis
   -check bladder pressure today
   - obtain repeat blood cultures
   .
   .
   # Fevers: Patient admitted with fever of 100.5 on day of admission,
   though has been afebrile during hospital stay.  Culture data has only
   yielded Urine culture from [**10-5**] growing coag negative staph and VRE.
   Subsequent cultures negative. ID fellow recommended against treating
   this.  Abdominal distension likely [**12-24**] ascites, given KUB findings.
   Tender to palpation/percussion, but respiratory status preserved. No
   abx for SBP for now given recent completion of ceftriaxone (s/p 3
   courses of abx empirically for SBP).
   - Paracentesis under IR guidance scheduled for the morning
   - will need FFP prior to have INR<2.0
   - f/u culture data
   - obtain blood cultures today
   .
   # Coagulopathy - secondary to decompensated liver failure.  Patient
   continues to have low-grade vaginal bleeding. Has mild oropharyngeal
   mucosal bleeds from cracked lips. INR 6.2. HCT 24.5. No active signs of
   bleeding, though she is guaiac positive.  Patient will get central line
   and paracentesis placed this morning in ICU They require INR to be <2.0
   for paracentesis.
   -po Vitamin K daily
   -FFP in the morning prior to paracentesis and CVL placement
   -FFP if active bleeding
   -active T&S
   -transfuse for HCT<24
   -continue epo
   - Will not pursue endometrial biopsy for transplant [**Last Name (LF) 2914**], [**First Name3 (LF) **]
   Hepatology & Txp surgery attendings
   .
   .
   # Acute on Chronic Kidney Injury - Creatinine improved to 1.5 which is
   her baseline on midodrine/octreotide. Patient appears fluid overloaded,
   and is hypertensive. Midodrine was discontinued. Urine output minimal,
   but not well recorded. Holding albumin, given intermittent
   hypertension, volume overload.  Renal U/S from [**10-1**] negative for
   obstructive uropathy.
   - Hold midodrine, given hypertension. Consider restarting if
   normotensive.
   - continue octreotide
   - Restart diuresis. Puts out well to 20mg IV Lasix.
   -  f/u urine output. Consider renal consult in the future given
   possible need for CVVH.
   .
   # Hypertension: Systolic BPs between 160 and 200 on transfer. Patient
   currently denies any chest pain or headache. Patient appears fluid
   overloaded and is anuric. Holding midodrine given HTN.
   -consider hydral PRN systolic BP>160
   -continue diuresis with 20mg IV lasix
   .
   # Hypernatremia: Na up to 153 today. Appears fluid overloaded.  [**Month (only) 60**] be
   contributing to increased somnolence. Received D5W prior to transfer.
   - lasix 20mg IV bid
   - recheck Na [**Hospital1 **]
   .
   .
   # Right wrist hematoma: secondary to attempted arterial access over the
   weekend.  Sensation & strength intact on exam. U/S negative for DVT or
   pseudo-aneurysm.   Plastic surgery consulted to rule out compartment
   syndrome.
   - F/u hand surgery recs: continue elevation with stockinet above head.
   No IV placement in R arm.
   - Serial hand/wrist exams
   .
   # ?Angioedema: Patient had possible episode of angioedema on the floor,
   perhaps secondary to lidoderm patch.
   - Monitor for signs of recurrent angioedema
   - Benadryl +/- steroids if recurs
   .
   .
   # DM - Occasionally hypoglycemic. Likely decreased glucose production
   given worsening liver failure.
   - Decreased glargine to 25 units qhs to avoid hypoglycemic episodes
   - continue SSI
   - qid fingersticks
   - Diabetic diet if mental status improves
   .
   # Breast Cancer
   -Continue letrozole (no reported nephrotoxicity)
   -no IV draws from L arm
   .
   .
   # FEN: No IVFs / replete lytes prn / NPO given altered mental status
   # PPX:  Home PPI, pneumoboots, bowel regimen
   # ACCESS: EJ x1, plan for central line placement this morning
   # CODE:  FULL
   # CONTACT:  [**Known firstname 1270**] [**Last Name (NamePattern1) 5243**] (daughter) [**Telephone/Fax (3) 10921**].
   Contact[**Name (NI) **] today, prior to transfer.
   # DISPO: ICU
   .
   .
   [**Doctor First Name 4402**] [**Doctor Last Name 4403**]
   [**Pager number 10367**]
   PGY-2
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-10-15 08:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 y/o with Hep C and autoimmune hepatitis on liver/kidney transplant
   list who was admitted for low-grade fever and hepatic encephalopathy,
   now transferred from floor for worsening mental status.
   24 Hour Events:
   - Access issues overnight
   - Lasix 20mg IV x 2
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Labetalol - [**2137-10-14**] 08:27 PM
   Hydromorphone (Dilaudid) - [**2137-10-15**] 05:23 AM
   Furosemide (Lasix) - [**2137-10-15**] 08:30 AM
   Other medications:
   RISS, epo, lactulose, vit K, octreotide, letrozole, rifaximin, MV,
   omeprazole, vit D
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-15**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 93 (88 - 100) bpm
   BP: 160/65(86) {148/56(82) - 197/73(101)} mmHg
   RR: 18 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
             Total In:
                                                                    140 mL
                                                                    511 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                    140 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    447 mL
   Urine:
                                                                    305 mL
                                                                    447 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,065 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender:
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, LUE lymphedema
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   88 K/uL
   177 mg/dL
   1.2 mg/dL
   28 mEq/L
   4.6 mEq/L
   51 mg/dL
   119 mEq/L
   153 mEq/L
   21.1 %
   7.1 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
                            [**2137-10-15**]  04:19 AM
   WBC
   5.9
   7.1
   Hct
   21.1
   21.1
   Plt
   84
   88
   Cr
   1.8
   1.2
   Glucose
   217
   177
   Other labs: PT / PTT / INR:58.1/68.8/6.5, ALT / AST:34/86, Alk Phos / T
   Bili:80/26.3, Fibrinogen:80 mg/dL, Albumin:4.1 g/dL, LDH:424 IU/L,
   Ca++:10.2 mg/dL, Mg++:3.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - unremarkable.
   Microbiology: No new micro.
   Assessment and Plan
   56 y/o with Hep C and autoimmune hepatitis on liver/kidney transplant
   list who was admitted for low-grade fever and hepatic encephalopathy,
   now transferred from floor for worsening mental status.
   # hepatic encephalopathy - LFT's stable, with consistently worsening
   bilirubin upto 24 today.  Hepatic encephalopathy worse over the past 3
   days, with disorientation, asterixis. S/p seven day course of
   ceftriaxone for empiric SBP coverage x2, and 7 day course of
   Vancomycin, completed today. CT head negative. Lactulose was increased
   today to 60mg po q3h.
   - continue Lactulose Q3 hrs titrate to 4 BMs/day
   - continue Rifaxmin
   # Fevers: Patient admitted with fever of 100.5 on day of admission,
   though has been afebrile during hospital stay.  Culture data has only
   yielded Urine culture from [**10-5**] growing coag negative staph and VRE.
   Subsequent cultures negative. ID fellow recommended against treating
   this.  Abdominal distension likely [**12-24**] ascites, given KUB findings.
   Tender to palpation/percussion, but respiratory status preserved. No
   abx for SBP for now given recent completion of ceftriaxone (s/p 3
   courses of abx empirically for SBP).
   - Paracentesis under IR guidance scheduled for the morning
   - will need FFP prior to have INR<2.0
   - f/u culture data
   - culture if spikes
   # Coagulopathy - secondary to decompensated liver failure.  Patient
   continues to have low-grade vaginal bleeding. Has mild oropharyngeal
   mucosal bleeds from cracked lips. INR 6.2. HCT 24.5. No active signs of
   bleeding, though she is guaiac positive.  Patient is scheduled for IR
   guided PICC or IJ and IR guided paracentesis this morning. They require
   INR to be <2.0 for paracentesis.
   -po Vitamin K daily
   -FFP in the morning prior to paracentesis and CVL placement under IR
   guidance
   -FFP if active bleeding
   -active T&S
   -transfuse for HCT<24
   -continue epo
   - Will not pursue endometrial biopsy for transplant [**Last Name (LF) 2914**], [**First Name3 (LF) **]
   Hepatology & Txp surgery attendings
   # Acute on Chronic Kidney Injury - Creatinine improved to 1.5 which is
   her baseline on midodrine/octreotide. Patient appears fluid overloaded,
   and is hypertensive. Midodrine was discontinued. Urine output minimal,
   but not well recorded. Holding albumin, given intermittent
   hypertension, volume overload.  Renal U/S from [**10-1**] negative for
   obstructive uropathy.
   - Hold midodrine, given hypertension. Consider restarting if
   normotensive.
   - continue octreotide
   - Restart diuresis. Puts out well to 20mg IV Lasix.
   -  f/u urine output. Consider renal consult in AM given possible need
   for CVVH.
   # Hypertension: Systolic BPs between 160 and 200 on transfer. Patient
   currently denies any chest pain or headache. Patient appears fluid
   overloaded and is anuric. Holding midodrine given HTN.
   -consider hydral PRN systolic BP>160
   # Hypernatremia: Na up to 150 today. Appears fluid overloaded.  [**Month (only) 60**] be
   contributing to increased somnolence. Received D5W prior to transfer.
   Na upto 152.
   - lasix 20mg IV bid
   - recheck Na daily
   # Right wrist hematoma: secondary to attempted arterial access over the
   weekend.  Sensation & strength intact on exam. U/S negative for DVT or
   pseudo-aneurysm.   Plastic surgery consulted to rule out compartment
   syndrome.
   - F/u hand surgery recs: continue elevation with stockinet above head.
   No IV placement in R arm.
   - Serial hand/wrist exams
   - speak with hand [**Doctor First Name 458**] regarding portential for PICC line in R arm
   # ?Angioedema: Patient had possible episode of angioedema on the floor,
   perhaps secondary to lidoderm patch.
   - Monitor for signs of recurrent angioedema
   - Benadryl +/- steroids if recurs
   # DM - Occasionally hypoglycemic. Likely decreased glucose production
   given worsening liver failure.
   - Decreased glargine to 25 units qhs to avoid hypoglycemic episodes
   - continue SSI
   - qid fingersticks
   - Diabetic diet if mental status improves
   # Breast Cancer
   -Continue letrozole (no reported nephrotoxicity)
   -no IV draws from L arm
   ICU Care
   Nutrition: NPO
   Glycemic Control:  RISS
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 25 minutes

2137-10-16 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   CVL placed
   Attempted dobhoff tube unsucessful.
   Bleeding from mouth resolved with FFP.
   Ultrasound showed moderate ascites but would be difficult to tap given
   bowel
   KUB with dilated loops of bowel
   Hct 19; got 2U PRBC overnight.
   Hypernatremic to 157, getting 1/2 NS given diabetes.
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-10-15**] 08:30 AM
   Hydralazine - [**2137-10-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-16**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 96 (85 - 101) bpm
   BP: 170/69(94) {122/51(74) - 179/88(95)} mmHg
   RR: 12 (6 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 64 Inch
    Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,253 mL
                                                                  1,625 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    958 mL
                                                                    722 mL
   Blood products:
                                                                  1,195 mL
                                                                    903 mL
   Total out:
                                                                  1,461 mL
                                                                    180 mL
   Urine:
                                                                    761 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    792 mL
                                                                  1,445 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GENERAL:  Ill appearing, NAD
   HEENT:  NCAT, Sclera icteric. Bleeding from cracked lips. Oropharynx
   clear.
   CARDIAC: RRR. No murmurs.
   LUNG:  CTAB. No wheezes or crackles.
   ABDOMEN:  Tense. Tender to palpation. + fluid wave. No rebound or
   guarding.
   EXT:  WWP. 3+ LE edema.
   NEURO:  Patient A+Ox1. Unable to answer questions.
   DERM:  Jaundiced
   Labs / Radiology
   82 K/uL
   7.7 g/dL
   102 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   56 mg/dL
   120 mEq/L
   156 mEq/L
   22.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
                            [**2137-10-15**]  04:19 AM
                            [**2137-10-15**]  02:47 PM
                            [**2137-10-15**]  05:47 PM
                            [**2137-10-16**]  04:39 AM
   WBC
   5.9
   7.1
   7.5
   Hct
   21.1
   21.1
   20.0
   19.2
   22.8
   Plt
   84
   88
   82
   Cr
   1.8
   1.2
   1.8
   2.4
   Glucose
   [**Telephone/Fax (3) 10929**]02
   Other labs: PT / PTT / INR:27.1/51.0/2.6, ALT / AST:34/72, Alk Phos / T
   Bili:75/26.4, Fibrinogen:107 mg/dL, Albumin:4.1 g/dL, LDH:356 IU/L,
   Ca++:10.2 mg/dL, Mg++:3.0 mg/dL, PO4:4.8 mg/dL
   Ultrasound: 1. The portal veins and splenic vein again demonstrate
   reverse flow. The right and middle hepatic veins are patent. The left
   hepatic vein could not be identified on this exam. Large varices are
   seen in the left upper quadrant,
   suggestive of a splenorenal shunt.
   2. Shrunken nodular liver consistent with cirrhosis. No biliary
   dilatation and no gallstones.
   3. Large amount of ascites. A mark was made at the right lower quadrant
   for a paracentesis to be performed by the clinical staff.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
    Right arm hematoma
 HEPATIC ENCEPHALOPATHY
 HYPERTENSION, BENIGN
 ELECTROLYTE & FLUID DISORDER, OTHER
 COAGULOPATHY
   56 y/o F w/HCV & autoimmune hepatitis, admitted for low-grade fever and
   hepatic encephalopathy, on the transplant list, transferred to the ICU
   for worsening encephalopathy.
   .
   # Altered mental status - Likely secondary to hepatic encephalopathy,
   which has been worse over the past 3 days, with disorientation,
   asterixis. S/p seven day course of ceftriaxone for empiric SBP coverage
   x2, and 7 day course of Vancomycin, completed today. CT head negative.
   Lactulose was increased to 60mg po q3h on [**10-16**].
   - continue Lactulose Q3 hrs titrate to 4 BMs/day
   - continue Rifaxmin
   - obtain repeat blood cultures
   .
   # Fevers: Patient admitted with fever of 100.5 on day of admission,
   though has been afebrile during hospital stay.  Culture data has only
   yielded Urine culture from [**10-5**] growing coag negative staph and VRE.
   Subsequent cultures negative. ID fellow recommended against treating
   this.  Abdominal distension likely [**12-24**] ascites, given KUB findings.
   Tender to palpation/percussion, but respiratory status preserved. No
   abx for SBP for now given recent completion of ceftriaxone (s/p 3
   courses of abx empirically for SBP).
   - Paracentesis under IR guidance scheduled for the morning
   - will need FFP prior to have INR<2.0
   - f/u culture data
   - obtain blood cultures today
    .
   # Coagulopathy - secondary to decompensated liver failure.  Patient
   continues to have low-grade vaginal bleeding. Has mild oropharyngeal
   mucosal bleeds from cracked lips. INR 6.2. HCT 24.5. No active signs of
   bleeding, though she is guaiac positive.  patient will get central line
   and paracentesis placed this morning in ICU They require INR to be <2.0
   for paracentesis.
   -po Vitamin K daily
   -FFP in the morning prior to paracentesis and CVL placement
   -FFP if active bleeding
   -active T&S
   -transfuse for HCT<24
   -continue epo
   - Will not pursue endometrial biopsy for transplant [**Last Name (LF) 2914**], [**First Name3 (LF) **]
   Hepatology & Txp surgery attendings
   .
   # Acute on Chronic Kidney Injury - Creatinine improved to 1.5 which is
   her baseline on midodrine/octreotide. Patient appears fluid overloaded,
   and is hypertensive. Midodrine was discontinued. Urine output minimal,
   but not well recorded. Holding albumin, given intermittent
   hypertension, volume overload.  Renal U/S from [**10-1**] negative for
   obstructive uropathy.
   - Hold midodrine, given hypertension. Consider restarting if
   normotensive.
   - continue octreotide
   - Restart diuresis. Puts out well to 20mg IV Lasix.
   -  f/u urine output. Consider renal consult in the future given
   possible need for CVVH.
   .
   # Hypertension: Systolic BPs between 160 and 200 on transfer. Patient
   currently denies any chest pain or headache. Patient appears fluid
   overloaded and is anuric. Holding midodrine given HTN.
   -consider hydral PRN systolic BP>160
   -continue diuresis with 20mg IV lasix
   .
   # Hypernatremia: Na up to 153 today. Stable with
 NS.
   - D5W
   - lasix 20mg IV bid
   - recheck Na [**Hospital1 **]
   .
   .
   # Right wrist hematoma: secondary to attempted arterial access over the
   weekend.  Sensation & strength intact on exam. U/S negative for DVT or
   pseudo-aneurysm.   Plastic surgery consulted to rule out compartment
   syndrome.
   - F/u hand surgery recs: continue elevation with stockinet above head.
   No IV placement in R arm.
   - Serial hand/wrist exams.
   .
   # DM - Occasionally hypoglycemic. Likely decreased glucose production
   given worsening liver failure.
   - Decreased glargine to 25 units qhs to avoid hypoglycemic episodes
   - continue SSI
   - qid fingersticks
   - Diabetic diet if mental status improves
   .
   # Breast Cancer
   -Continue letrozole (no reported nephrotoxicity)
   -no IV draws from L arm
   .
   # FEN: No IVFs / replete lytes prn / NPO given altered mental status
   # PPX:  Home PPI, pneumoboots, bowel regimen
   # ACCESS: EJ x1, central line placed.  H/O left mastectomy, and right
   hand hematoma from arterial puncture.
   # CODE:  FULL
   # CONTACT:  [**Known firstname 1270**] [**Last Name (NamePattern1) 5243**] (daughter) [**Telephone/Fax (3) 10921**].
   Contact[**Name (NI) **] today, prior to transfer.
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Multi Lumen - [**2137-10-15**] 05:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-10-16 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-10-15**] 08:30 AM
   Hydralazine - [**2137-10-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-16**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 91 (85 - 101) bpm
   BP: 171/68(93) {122/51(74) - 179/88(95)} mmHg
   RR: 9 (6 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 64 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,253 mL
                                                                  1,730 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    958 mL
                                                                    828 mL
   Blood products:
                                                                  1,195 mL
                                                                    903 mL
   Total out:
                                                                  1,461 mL
                                                                    213 mL
   Urine:
                                                                    761 mL
                                                                    213 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    792 mL
                                                                  1,519 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   82 K/uL
   102 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   56 mg/dL
   120 mEq/L
   156 mEq/L
   22.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
                            [**2137-10-15**]  04:19 AM
                            [**2137-10-15**]  02:47 PM
                            [**2137-10-15**]  05:47 PM
                            [**2137-10-16**]  04:39 AM
   WBC
   5.9
   7.1
   7.5
   Hct
   21.1
   21.1
   20.0
   19.2
   22.8
   Plt
   84
   88
   82
   Cr
   1.8
   1.2
   1.8
   2.4
   Glucose
   [**Telephone/Fax (3) 10929**]02
   Other labs: PT / PTT / INR:27.1/51.0/2.6, ALT / AST:34/72, Alk Phos / T
   Bili:75/26.4, Fibrinogen:107 mg/dL, Albumin:4.1 g/dL, LDH:356 IU/L,
   Ca++:10.2 mg/dL, Mg++:3.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   56 y/o with Hep C and autoimmune hepatitis on liver/kidney transplant
   list who was admitted for low-grade fever and hepatic encephalopathy,
   now transferred from floor for worsening mental status.
   # Altered mental status
 Likely [**12-24**] hepatic encephalopathy and
   hypernatremia. CT head negative [**2137-9-27**]. Worsening over last 3 days.
   S/p treatment for SBP (ending [**10-14**]).
   - Continue lactulose / rifaximin
   - Blood/urine cultures
   - Repeat abdominal imaging to r/o recurrent portal vein thrombosis
   - Paracentesis to r/o recurrent SBP
   - Lasix for hypervolemic hypernatremia.  FWF once dophoff placed. Na
   [**Hospital1 **] checks.
   - Place dophoff for PO intake/meds given poor mental status.
   # Coagulopathy: Secondary to decompensated liver failure.  Has
   low-grade vaginal bleeding and oropharyngeal mucosal bleeding. Guiac
   positive.
   - PO Vitamin K daily
   - FFP and cryo today prior to paracentesis, CVL placement, and Dophoff
   - Active T&S
   - Transfuse for HCT<24 once has CL
   - Continue epo
   - Will not pursue endometrial biopsy for transplant [**Last Name (LF) 2914**], [**First Name3 (LF) **]
   Hepatology & Txp surgery attendings
   # Acute on Chronic Kidney Injury
 Creatinine now at baseline.  Renal
   U/S from [**10-1**] negative for obstructive uropathy.
   - Hold midodrine, given hypertension. Consider restarting if
   normotensive.
   - Continue octreotide
   - Diuresis; follow UOP
   - Discuss with transplant surgery the issue of renal transplant
   # Hypertension: Holding midodrine given HTN.  Volume overloaded.
   - Diuresis
   - Consider hydral PRN systolic BP>160
   # ESLD: [**12-24**] Hep C and autoimmune hepatitis.  On transplant list.
   - Serial bladder pressures.  Plan for diagnostic/therapeutic
   paracentesis.
   - F/U hepatology recs
   - F/U transplant surgery recs
   # Right wrist hematoma: Secondary to attempted arterial access over the
   weekend.  Sensation & strength intact on exam. U/S negative for DVT or
   pseudo-aneurysm.   Plastic surgery consulted to rule out compartment
   syndrome.
   - F/u hand surgery recs
   - Serial hand/wrist exams
   # DM: Complicated by hypoglycemia given worsening liver failure.
   - Follow on decreased glargine dose
   - Continue SSI
   - Qid fingersticks
   # Breast Cancer
   -Continue letrozole (no reported nephrotoxicity)
   -no IV draws from L arm
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Multi Lumen - [**2137-10-15**] 05:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 20 minutes

2137-10-16 10:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - 2 untis of FFP and 1 unit of cryo - then CL placed
   - Dobhoff attempted with subsequent bleeding from mouth - 2 units FFP
   given
   - No paracentesis [**12-24**] bowel loops
   - 2 units PRBC
   Allergies:
   Tums (Oral) (Calcium Carbonate)
   Rash;  itchines
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-10-16**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.4
   HR: 91 (86 - 101) bpm
   BP: 171/68(93) {122/51(74) - 179/88(94)} mmHg
   RR: 9 (8 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 80 kg
   Height: 64 Inch
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  2,253 mL
                                                                  1,938 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                    958 mL
                                                                  1,035 mL
   Blood products:
                                                                  1,195 mL
                                                                    903 mL
   Total out:
                                                                  1,461 mL
                                                                    213 mL
   Urine:
                                                                    761 mL
                                                                    213 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    792 mL
                                                                  1,725 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   82 K/uL
   102 mg/dL
   2.4 mg/dL
   24 mEq/L
   4.6 mEq/L
   56 mg/dL
   120 mEq/L
   156 mEq/L
   22.8 %
   7.5 K/uL
        [image002.jpg]
                            [**2137-10-14**]  08:08 PM
                            [**2137-10-15**]  04:19 AM
                            [**2137-10-15**]  02:47 PM
                            [**2137-10-15**]  05:47 PM
                            [**2137-10-16**]  04:39 AM
   WBC
   5.9
   7.1
   7.5
   Hct
   21.1
   21.1
   20.0
   19.2
   22.8
   Plt
   84
   88
   82
   Cr
   1.8
   1.2
   1.8
   2.4
   Glucose
   [**Telephone/Fax (3) 10929**]02
   Other labs: PT / PTT / INR:27.1/51.0/2.6, ALT / AST:34/72, Alk Phos / T
   Bili:75/26.4, Fibrinogen:107 mg/dL, Albumin:4.1 g/dL, LDH:356 IU/L,
   Ca++:10.2 mg/dL, Mg++:3.0 mg/dL, PO4:4.8 mg/dL
   Imaging: Abd x-ray: dilated bowel loops; CXR - CL in good position,
   lung fields clear.
   Microbiology: No new micro data.
   Assessment and Plan
   56 y/o with Hep C and autoimmune hepatitis on liver/kidney transplant
   list who was admitted for low-grade fever and hepatic encephalopathy,
   now transferred from floor for worsening mental status.
   # Altered mental status
 Likely [**12-24**] hepatic encephalopathy and
   hypernatremia. CT head negative [**2137-9-27**]. Worsening over last 3 days.
   S/p treatment for SBP (ending [**10-14**]).
   - Continue lactulose / rifaximin
   - F/U blood/urine cultures
   - Paracentesis by IR to r/o recurrent SBP
   - Place dobhoff by IR for PO intake/meds given poor mental status.
   # Hypernatremia:  Hypervolemic hypernatremia
   - FWF once dobhoff placed
   - Na [**Hospital1 **] checks
   - Switch to D5W for IVF/carriers
   - Will attempt diuresis
   # Coagulopathy: Secondary to decompensated liver failure.  Has
   low-grade vaginal bleeding and oropharyngeal mucosal bleeding. Guiac
   positive.
   - PO Vitamin K daily
   - FFP today prior to paracentesis and Dophoff
   - Active T&S
   - Transfuse for HCT<24
   - Continue epo
 will discuss with transplant surgery
   - Will not pursue endometrial biopsy for transplant [**Last Name (LF) 2914**], [**First Name3 (LF) **]
   Hepatology & Txp surgery attendings
   # Acute on Chronic Kidney Injury
 Renal U/S from [**10-1**] negative for
   obstructive uropathy.
   - Hold midodrine, given hypertension. Consider restarting if
   normotensive.
   - Continue octreotide
   # Hypertension: Holding midodrine given HTN.  Volume overloaded.
   - Diuresis
   - Consider hydral PRN systolic BP>160
   # ESLD: [**12-24**] Hep C and autoimmune hepatitis.  On transplant list.
   - Serial bladder pressures.  Plan for diagnostic/therapeutic
   paracentesis.
   - F/U hepatology recs
   - F/U transplant surgery recs
   # Right wrist hematoma: Secondary to attempted arterial access over the
   weekend.  Sensation & strength intact on exam. U/S negative for DVT or
   pseudo-aneurysm.   Plastic surgery consulted to rule out compartment
   syndrome.
   - F/u hand surgery recs
   - Serial hand/wrist exams
   # DM: Complicated by hypoglycemia given worsening liver failure.
   - Follow on decreased glargine dose
   - Continue SSI
   - Qid fingersticks
   # Breast Cancer
   - Continue letrozole (no reported nephrotoxicity)
   - No IV draws from L arm
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2137-10-14**] 08:04 PM
   Multi Lumen - [**2137-10-15**] 05:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes